US06884821B1
Using 2,4-diethoxybenzoic acid and 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl)-2-isopropoxypropanoate, 3-(3-[(2,4-diethoxybenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid was obtained in the same method as in Example 38).

reactant | 2,4-diethoxybenzoic acid | C(C)OC1=C(C(=O)O)C=CC(=C1)OCC | C11H14O4
reactant | 3-[3-([(tert-butoxycarbonyl)amino]methyl)-4-methoxyphenyl)-2-isopropoxypropanoate | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 3-(3-[(2,4-diethoxybenzoyl)amino]methyl-4-methoxyphenyl)-2-isopropoxypropanoic acid | C(C)OC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)OCC | C25H33NO7
